US08309542B2
(b) (R)-(3-Amino-pyrrolidin-1-yl)-(2-methyl-1,2,3,4-tetrahydroisoquinolin-6-yl)-methanone
1.4 g (3.8 mmol) tert. Butyl (R)-[1-(2-methyl-1,2,3,4-tetrahydroisoquinoline-6-carbonyl)-pyrrolidin-3-yl]-carbamate are dissolved in 5 ml THF and slowly combined with 9.5 ml hydrochloric acid (4 M in 1,4-dioxane). The mixture is stirred for two hours, then concentrated down to ⅔ of its volume and the crude product is filtered off as a precipitate, which is then purified by RP-HPLC (eluant: gradient ammonia/acetonitrile).

reactant | tert. Butyl (R)-[1-(2-methyl-1,2,3,4-tetrahydroisoquinoline-6-carbonyl)-pyrrolidin-3-yl]-carbamate | 3.8 mmol, 1.4 g | CN1CC2=CC=C(C=C2CC1)C(=O)N1C[C@@H](CC1)NC(OC(C)(C)C)=O | C20H29N3O3
reactant | hydrochloric acid | 4 M, 9.5 ml | Cl | ClH
solvent | THF | 5 ml | C1CCOC1 | C4H8O
product | (R)-(3-Amino-pyrrolidin-1-yl)-(2-methyl-1,2,3,4-tetrahydroisoquinolin-6-yl)-methanone | N[C@H]1CN(CC1)C(=O)C=1C=C2CCN(CC2=CC1)C | C15H21N3O
